US08211908B2
To 95 mg of 1-(1,3-dioxolan-2-ylmethyl)pyrido(3,4-b)pyrazin-2(1H)-one, 4.0 mL of an 80% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at room temperature for 2 hours, and then left overnight. Thereto was added 4.0 mL of an 80% aqueous trifluoroacetic acid solution, and the mixture was stirred at 50 to 70° C. for 6 hours. The reaction mixture was cooled to room temperature, and the solvent was distilled off under reduced pressure. The resultant residue was charged with chloroform and water and adjusted to pH 7.0 with a 1 mol/L aqueous sodium hydroxide solution. The organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 40 mg of (2-oxopyrido(3,4-b)pyrazin-1(2H)-yl)acetaldehyde as a light brown oily substance.

reactant | 1-(1,3-dioxolan-2-ylmethyl)pyrido(3,4-b)pyrazin-2(1H)-one | 95 mg | O1C(OCC1)CN1C2=C(N=CC1=O)C=NC=C2 | C11H11N3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (2-oxopyrido(3,4-b)pyrazin-1(2H)-yl)acetaldehyde | 40 mg | O=C1N(C2=C(N=C1)C=NC=C2)CC=O | C9H7N3O2
